US07807671B2
To a stirred solution of tert-butyl 4-(1-cyano-2-(thiazol-2-yl)vinyl)piperazine-1-carboxylate (2.25 g), sodium azide (0.4 g) were taken in dry DMSO (4 ml) and heated to 110° C. overnight. The reaction mixture was carefully quenched with water (10 ml) and the reaction mixture was extracted with dichloromethane (3×10 ml). The combined organic layer was washed with brine (10 ml), dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by column chromatography using methanol:chloroform (1:9) as an eluent to afford tert-butyl 4-(5-(thiazol-2-yl)-1H-1,2,3-triazol-4-yl)piperazine-1-carboxylate as white solid.

reactant | tert-butyl 4-(1-cyano-2-(thiazol-2-yl)vinyl)piperazine-1-carboxylate | 2.25 g | C(#N)C(=CC=1SC=CN1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H20N4O2S
reactant | sodium azide | 0.4 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
product | tert-butyl 4-(5-(thiazol-2-yl)-1H-1,2,3-triazol-4-yl)piperazine-1-carboxylate | S1C(=NC=C1)C1=C(N=NN1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20N6O2S
